US06306864B1
Anhydrous zinc chloride (0.133 g, 0.98 mmol) was fused with a nitrogen purge in a round bottom flask with an open flame. The reaction vessel was allowed to return to ambient temperature, at which time dioxane (7 mL) was then added. To this mixture was added 3-(2-chloro-phenyl)-6-fluoro-2-methyl-3H-quinazolin-4-one (0.14 g, 0.49 mmol), acetic anhydride (0.138 mL, 1.46 mmol), and 2-methylthiazole-4-carboxaldehyde (0.185 g, 1.46 mmol in 4 mL of dioxane). The reaction was refluxed for 4 hours, at which time it was allowed to cool to ambient temperature. Once the reaction had cooled to ambient temperature it was diluted with water. The mixture was repeatedly extracted with chloroform. The chloroform extracts were combined to form a chloroform layer which was washed with water and brine, dried over sodium sulfate and concentrated to yield a dark residue. This residue was triturated with ether, filtered and dried to afford 0.16 g (57%) of 3-(2-chloro-phenyl)-6-fluoro-2-[2-(2-methyl-thiazol-4-yl)-vinyl]-3H-quinazolin-4-one as tan solid.

reactant | 3-(2-chloro-phenyl)-6-fluoro-2-methyl-3H-quinazolin-4-one | 0.49 mmol, 0.14 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C | C15H10ClFN2O
reactant | acetic anhydride | 1.46 mmol, 0.138 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methylthiazole-4-carboxaldehyde | 1.46 mmol, 4 mL, 0.185 g | CC=1SC=C(N1)C=O | C5H5NOS
solvent | water | O | H2O
catalyst | zinc chloride | 0.98 mmol, 0.133 g | [Cl-].[Zn+2].[Cl-]
product | 3-(2-chloro-phenyl)-6-fluoro-2-[2-(2-methyl-thiazol-4-yl)-vinyl]-3H-quinazolin-4-one | 0.16 g, 57% | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=CC=1N=C(SC1)C | C20H13ClFN3OS
